US05811439
The same procedures used in Example 1 were repeated except for using 2.52 g of 5-bromo-2-methyl-2-pentene and 2.00 g of indole-3-carbaldehyde as a starting material to give 3.06 g of 1-(4-methyl-3-pentenyl)indole-3-carbaldehyde as colorless crystals. The yield thereof was found to be 98%.

reactant | 5-bromo-2-methyl-2-pentene | 2.52 g | BrCCC=C(C)C | C6H11Br
reactant | indole-3-carbaldehyde | 2.00 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 1-(4-methyl-3-pentenyl)indole-3-carbaldehyde | 3.06 g | CC(=CCCN1C=C(C2=CC=CC=C12)C=O)C | C15H17NO
